US05097028
To a solution of 4.1 g (0.01 mol) of 2,4-di-[3-trifluoromethylphenyl]-5-methylamino-2H-pyridazin-3-one in 50 ml of pyridine, there are added dropwise at 10° C. 4.2 g (0.02 mol) of trifluoroacetic anhydride and the mixture is then stirred at room temperature for 16 hours. The reaction mixture is diluted with methylene chloride and extracted with water and three times with 2N hydrochloric acid. The organic phase is dried with sodium sulphate and evaporated. After chromatography of the residue on silica gel 60 using methylene chloride, 3.5 g (68% of theory) of 2,4-di-[3-trifluoromethylphenyl]-5-[trifluoroacetyl-methylamino]-2H-pyridazin-3-one of melting point 122° C. are obtained.

reactant | 2,4-di-[3-trifluoromethylphenyl]-5-methylamino-2H-pyridazin-3-one | 0.01 mol, 4.1 g | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)NC)(F)F | C19H13F6N3O
reactant | trifluoroacetic anhydride | 0.02 mol, 4.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,4-di-[3-trifluoromethylphenyl]-5-[trifluoroacetyl-methylamino]-2H-pyridazin-3-one | 3.5 g, 68% | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C(C(F)(F)F)=O)(F)F | C21H12F9N3O2
